US09371320B2
B) 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)morpholin-3-one
To a mixture of 4-(4-bromophenyl)morpholin-3-one, bis(pinacolato)diboron (120 mg) and potassium acetate (120 mg) in DMSO (1 mL) was added dichlorobis(triphenylphosphine)palladium(II) (14 mg) under nitrogen atmosphere. The reaction mixture was stirred under microwave irradiation at 105° C. for 30 min. The insoluble substance was removed by the filtration, and the filtrate was added to water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/petroleum ether) to give the title compound (145 mg).

reactant | 4-(4-bromophenyl)morpholin-3-one | BrC1=CC=C(C=C1)N1C(COCC1)=O | C10H10BrNO2
reactant | bis(pinacolato)diboron | 120 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 120 mg | C(C)(=O)[O-].[K+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)morpholin-3-one | 145 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1C(COCC1)=O)C | C16H22BNO4
